US05516774
N-[4-[(6,7-Dihydro-5H-pyrrolo[1,2-a] [1,5]benzodiazepin-5-yl]carbonyl]-3-chlorophenyl]-3-fluoro-2methylbenzamid
To a mixture of 0.10 g of 6,7-dihydro-5-(4-amino-2-chlorobenzoyl)-5H-pyrrolo-[1,2-a][1,5]benzodiazepine and 0.06 g of triethylamine in 6 ml of dichloromethane is added 0.08 g of 3-fluoro-2-methylbenzoyl chloride in 0.5 ml of dichloromethane. The mixture is stirred for 2 hours at room temperature and then 2 ml of 1N NaOH added. The volatiles are evaporated under vacuum and the residue dissolved in 2 ml Of tetrahydrofuran and 1 ml of methanol. The mixture is stirred for 2 hours and evaporated and the residue diluted with 2 ml of 1N NaOH and 5 ml of water. The mixture is extracted with ethyl acetate (15 ml) and the extract washed with brine and dried (Na2SO4). The solvent is removed and the residue triturated with diethyl ether-hexane to give 0.15 g of white solid: Mass Spectrum (CI)474(M+H, Cl35); 476(M+H, Cl37).

reactant | 6,7-dihydro-5-(4-amino-2-chlorobenzoyl)-5H-pyrrolo-[1,2-a][1,5]benzodiazepine | 0.10 g | NC1=CC(=C(C(=O)N2CCC=3N(C4=C2C=CC=C4)C=CC3)C=C1)Cl | C19H16ClN3O
reactant | triethylamine | 0.06 g | C(C)N(CC)CC | C6H15N
reactant | 3-fluoro-2-methylbenzoyl chloride | 0.08 g | FC=1C(=C(C(=O)Cl)C=CC1)C | C8H6ClFO
reactant | NaOH | 1N, 2 ml | [OH-].[Na+]
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | N-[4-[(6,7-Dihydro-5H-pyrrolo[1,2-a] [1,5]benzodiazepin-5-yl]carbonyl]-3-chlorophenyl]-3-fluoro-2methylbenzamid | 0.15 g | C1=CC=CC=2N(CCC=3N(C21)C=CC3)C(=O)C3=C(C=C(C=C3)NC(C3=C(C(=CC=C3)F)C)=O)Cl | C27H21ClFN3O2
